US05834506
Ethyl-sulfamic acid 5-tert-butyl-4-{6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl ester
The title compound was prepared as described in General Method 9 from 6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one (156 mg, 0.499 mmol; prepared in Example NN), toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester (prepared in Example VVV; 250 mg, 0.546 mmol), K2CO3 (303 mg, 2.195 mmol), and DMF (4 mL). The reaction was stirred at room temperature for 2.5 hours and then worked up in the usual manner. The crude product was flash chromatographed using CH2Cl2 :MeOH (98:2 to 97:3) to give the desired product as a amorphous solid. 1H NMR (CDCl3) δ 1.0-2.1 (m, 16 H), 1.55 (s, 9 H), 2.00 (s, 3 H), 2.6-2.7 (m, 3 H), 3.10 (d, 1 H), 3.3-3.4 (m, 2 H), 4.96 (t, 1 H), 6.70-6.78 (d, s, 3 H), 6.93 (d, 2 H), 7.29 (s, 1 H).

reactant | 6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-5,6-dihydro-pyran-2-one | 0.499 mmol, 156 mg | C1(CCCCC1)C1(CC(=CC(O1)=O)O)CCC1=CC=C(C=C1)O | C19H24O4
reactant | toluene-4-thiosulfonic acid S-(2-tert-butyl-4-ethylsulfamoyloxy-5-methyl-phenyl) ester | 0.546 mmol, 250 mg | C(C)(C)(C)C1=C(C=C(C(=C1)OS(NCC)(=O)=O)C)SS(=O)(=O)C1=CC=C(C=C1)C | C20H27NO5S3
reactant | K2CO3 | 2.195 mmol, 303 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | Ethyl-sulfamic acid 5-tert-butyl-4-{6-cyclohexyl-4-hydroxy-6-[2-(4-hydroxy-phenyl)-ethyl]-2-oxo-5,6-dihydro-2H-pyran-3-ylsulfanyl}-2-methyl-phenyl ester | C(C)(C)(C)C=1C(=CC(=C(C1)OS(NCC)(=O)=O)C)SC=1C(OC(CC1O)(CCC1=CC=C(C=C1)O)C1CCCCC1)=O | C32H43NO7S2
